US06365594B1
4,5-Epoxy-3-ethyl-17-methylmorphinan-6-one
1.2 g (4.06 mmol) of 4,5-epoxy-17-methyl-3-vinylmorphinan-6-one were dissolved in 150 ml of absolute EtOH. 1 g of 10% Pd on charcoal was added and the reaction mixture was hydrogenated in a Parr apparatus at 35 psi and at room temperature for 8 h. The catalyst was filtered off and the solvent was removed in vacuo, yielding 0.77 g of the title product.

reactant | 4,5-epoxy-17-methyl-3-vinylmorphinan-6-one | 4.06 mmol, 1.2 g | O1C2=C(C=CC=3C[C@@H]4[C@@H]5CCC(C1[C@@]5(C23)CCN4C)=O)C=C | C19H21NO2
solvent | EtOH | 150 ml | CCO | C2H6O
catalyst | Pd on charcoal | 1 g | [Pd] | Pd
product | 4,5-Epoxy-3-ethyl-17-methylmorphinan-6-one | 0.77 g | O1C2=C(C=CC=3C[C@@H]4[C@@H]5CCC(C1[C@@]5(C23)CCN4C)=O)CC | C19H23NO2
